US07662832B2
Step 1: 2-(4-fluorobenzyl)amino-3-nitropyridine
4-Fluorobenzylamine (5.88 ml, 51.4 mmol) was added to a solution of 2-chloro-3-nitropyridine (8.16 g, 51.4 mmol) and sodium carbonate (8.72 g, 82,3 mmol) in anhydrous N,N-dimethylformamide (100 ml). The reaction mixture was stirred at 100° C. for 1 hour. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, and then filtered to discard an insoluble solid. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer washed with a saturated sodium chloride solution (100 ml) four times, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/n-hexane=1/10, v/v) to give 11.5 g of the titled compound as yellow solid.

reactant | 4-Fluorobenzylamine | 51.4 mmol, 5.88 ml | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2-chloro-3-nitropyridine | 51.4 mmol, 8.16 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium carbonate | 82,3 mmol, 8.72 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorobenzyl)amino-3-nitropyridine | 11.5 g | FC1=CC=C(CNC2=NC=CC=C2[N+](=O)[O-])C=C1 | C12H10FN3O2
